US06248766B1
4-[[2-(2,2-Diphenylethyl)thio-8H-indeno[1,2-d]thiazol-7-yl]oxy]butyric Acid
Using ethyl 4-[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]butyrate and 2,2-diphenylethyl methanesulfonate, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 35%.

reactant | ethyl 4-[(2-mercapto-8H-indeno[1,2-d]thiazol-7-yl)oxy]butyrate | SC=1SC2=C(N1)C=1C=CC=C(C1C2)OCCCC(=O)OCC | C16H17NO3S2
reactant | 2,2-diphenylethyl methanesulfonate | CS(=O)(=O)OCC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H16O3S
product | 4-[[2-(2,2-Diphenylethyl)thio-8H-indeno[1,2-d]thiazol-7-yl]oxy]butyric Acid | Yield 35% | C1(=CC=CC=C1)C(CSC=1SC2=C(N1)C=1C=CC=C(C1C2)OCCCC(=O)O)C2=CC=CC=C2 | C28H25NO3S2
